US08865736B2
Benzo[1,3]dioxole-5-carbonitrile
To a solution of 3,4 Dihydroxy benzonitrile (5.0 g, 37.0 mmol) in 20 ml of DMF was added dibromomethane (19.25 g, 110.0 mmol) and potassium carbonate (25.50 g, 184.90 mmol). The reaction mixture was heated at 120° C. for 2 h under the nitrogen atmosphere. After the completion of the reaction mixture (TLC monitoring), reaction mixture was cooled to room temperature. Water (50 ml) was added to the reaction mixture and extracted the compound with ethyl acetate (3×100 mL). The combined organic layers were dried over anhydrous Na2SO4, and evaporated to dryness under reduced pressure to give the title compound as yellow solid (5.16 g, 94.8%).

reactant | 3,4 Dihydroxy benzonitrile | 37.0 mmol, 5.0 g | OC=1C=C(C#N)C=CC1O | C7H5NO2
reactant | dibromomethane | 110.0 mmol, 19.25 g | BrCBr | CH2Br2
reactant | potassium carbonate | 184.90 mmol, 25.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 50 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Benzo[1,3]dioxole-5-carbonitrile | 5.16 g, 94.8% | O1COC2=C1C=CC(=C2)C#N | C8H5NO2
